US06124463
2-Ethyl-1-(1-ethyl-propyl)-4-(2,4,5-trichloro-phenyl)-1H-benzimidazole
Under a nitrogen atmosphere in 15 ml of anhydrous dimethoxyethane (DME) was dissolved 461 mg (1.76 mmol) triphenylphosphine. The reaction was evacuated and repressurized under nitrogen and stirred for 15 minutes at which point 98.55 mg of palladium acetate was added. The reaction was stirred for an additional 15 minutes at which point 1.10 g (4.88 mmol) of 2,4,5-trichlorophenylboronic acid was added. The reaction was stirred another 15 minutes at which time 1.14 g (4.39 mmol) of methyl 2-bromo-5-nitrobenzoate and 5 ml of 2N sodium carbonate were added. The reaction was evacuated and repressurized under nitrogen and heated to reflux for 18 hours at which time it was cooled, poured into 250 ml water, and extracted with ethyl acetate (3×50 ml). The combined organic extracts were dried over magnesium sulfate, filtered and evaporated in vacuo to afford the crude product as a brown oil. The crude product was purified by column chromatography on silica gel (275 g) and eluted with 20% ethyl acetate in hexanes to afford 740 mg (47%) of the title compound.

reactant | triphenylphosphine | 1.76 mmol, 461 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,4,5-trichlorophenylboronic acid | 4.88 mmol, 1.10 g | ClC1=C(C=C(C(=C1)Cl)Cl)B(O)O | C6H4BCl3O2
reactant | methyl 2-bromo-5-nitrobenzoate | 4.39 mmol, 1.14 g | BrC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C8H6BrNO4
reactant | sodium carbonate | 2N, 5 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 15 ml | C(OC)COC | C4H10O2
product | 2-Ethyl-1-(1-ethyl-propyl)-4-(2,4,5-trichloro-phenyl)-1H-benzimidazole | 740 mg, 47% | C(C)C1=NC2=C(N1C(CC)CC)C=CC=C2C2=C(C=C(C(=C2)Cl)Cl)Cl | C20H21Cl3N2
